US04609396
The title compound can be prepared by interaction of 2-[4-(2-quinoxalinyloxy)phenoxy]propionic acid with thionyl chloride in a suitable solvent such as chlorobutane. Add a solution of 3.3 g (0.01 mole) 2-[4-(2-quinoxalinyloxy)phenoxy]propionyl chloride in 30 cc methylene chloride to a cold (5° C.) solution of 1.8 g (0.025 mole) diethylamine in 30 cc methylene chloride. Stir the mixture at room temperature overnight. Wash the methylene chloride solution with water and dry over magnesium sulfate. Remove the methylene chloride under vacuum to yield N,N-diethyl-2-[4-(quinoxalinyloxy)phenoxy]propanamide.

reactant | 2-[4-(2-quinoxalinyloxy)phenoxy]propionyl chloride | 0.01 mole, 3.3 g | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C17H13ClN2O3
reactant | diethylamine | 0.025 mole, 1.8 g | C(C)NCC | C4H11N
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-2-[4-(quinoxalinyloxy)phenoxy]propanamide | C(C)N(C(C(C)OC1=CC=C(C=C1)OC1=NC2=CC=CC=C2N=C1)=O)CC | C21H23N3O3
